US05131946
1-(2-Chlorophenylthiocarbamoyl)-2-hydroxymethylpiperidine.
3.4 g 2-Hydroxymethylpiperidine in 50 ml absolute tetrahydrofuran was treated with 1 drop of triethylamine and 5 g 2-chlorophenyl isothiocyanate. After 12 hours at room temperature, the reaction solution was cooled in an ice bath. The crystals were suction filtered and recrystallised from ethyl acetate.

reactant | 2-Hydroxymethylpiperidine | 3.4 g | OCC1NCCCC1 | C6H13NO
reactant | 2-chlorophenyl isothiocyanate | 5 g | ClC1=C(C=CC=C1)N=C=S | C7H4ClNS
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | triethylamine | 1 drop | C(C)N(CC)CC | C6H15N
product | 1-(2-Chlorophenylthiocarbamoyl)-2-hydroxymethylpiperidine | ClC1=C(C=CC=C1)NC(=S)N1C(CCCC1)CO | C13H17ClN2OS
